US07932284B2
4-[1-(3-Methyl-butyl)-6-nitro-1H-indol-3-yl]-benzonitrile (11, R1=i-Pr)
Method L Add Cs2CO3 (1.0 g, 1.88 mmol) to a solution of 4-(6-Nitro-1H-indol-3-yl)-benzonitrile, 9, (100 mg, 0.37 mmol) and isopentyl bromide (0.1 mL, 0.75 mmol) in DMF (10 mL). Stir overnight at ambient temperature. Remove the DMF solvent to provide a solid and partition the solid between EtOAc and H2O, Sequentially wash the organic layer with H2O and brine then dry the organic layer over MgSO4. Filter and remove the solvent leaving a solid. Purify by silica gel column chromatography (0-100% EtOAc/hexanes gradient) and concentrated to dryness to afford 180 mg (95%) of the title compound. LRMS (API ES+)=334.3 (M+H).

reactant | Cs2CO3 | 1.88 mmol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(6-Nitro-1H-indol-3-yl)-benzonitrile | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C1=CC=C(C#N)C=C1 | C15H9N3O2
reactant | isopentyl bromide | 0.75 mmol, 0.1 mL | C(CC(C)C)Br | C5H11Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[1-(3-Methyl-butyl)-6-nitro-1H-indol-3-yl]-benzonitrile | 180 mg, 95% | CC(CCN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C1=CC=C(C#N)C=C1)C | C20H19N3O2
